US03998818
Trifluoroethylmercaptoacetic acid chloride
Thionyl chloride (21.9 g, 184 mmol) and trifluoroethylmercaptoacetic acid (15.9 g; 91 mmol) were stirred together overnight. The excess reagent was removed in vacuo and the product was distilled; bp 62°-68°/20 mm.

reactant | Thionyl chloride | 184 mmol, 21.9 g | S(=O)(Cl)Cl | Cl2OS
reactant | trifluoroethylmercaptoacetic acid | 91 mmol, 15.9 g | FC(CSCC(=O)O)(F)F | C4H5F3O2S
product | Trifluoroethylmercaptoacetic acid chloride | FC(CSCC(=O)Cl)(F)F | C4H4ClF3OS
